US04563527
In 20 ml of a 30% HBr/acetic acid solution, was dissolved 1.0 g of 6-amidino-2-naphthyl 5-benzyloxycarbonylaminomethyl-thiophene-2-carboxylate methanesulfonate. The solution was stirred for 30 minutes at room temperature. Ethyl ether was added to the resulting solution. The precipitate was collected by filtration and recrystallized from a mixture of methanol and ethyl ether to obtain 800 mg of 6-amidino-2-naphthyl 5-aminomethyl-thiophene-2-carboxylate dihydrobromide.

reactant | 6-amidino-2-naphthyl 5-benzyloxycarbonylaminomethyl-thiophene-2-carboxylate methanesulfonate | 1.0 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(S1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | Ethyl ether | C(C)OCC | C4H10O
reactant | HBr acetic acid | Br.C(C)(=O)O
product | 6-amidino-2-naphthyl 5-aminomethyl-thiophene-2-carboxylate dihydrobromide | 800 mg | Br.Br.NCC1=CC=C(S1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C17H15N3O2S.2BrH/c18-9-14-5-6-15(23-14)17(21)22-13-4-3-10-7-12(16(19)20)2-1-11(10)8-13;;/h1-8H,9,18H2,(H3,19,20);2*1H
